US07649011B2
Experimental condition analogous to Example 2 were used with 2-(S)-{[3-(2,4-difluoro-phenyl)-2-methyl-allylaminmo]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester were used with 2-(S)-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester and 3-(2,4-difluoro-phenyl)-2-methyl-propenal described in scheme 15) 0.4 g (1 mmol), 3,4,5-trimethoxy benzoic acid 0.27 g (1.3 mmol), triethylamine 0.1 ml, 1-(dimethylaminopropyl)-3-ethylcarbodiimide 0.31 g (1.63 mmol), and 1-hydroxybenzotriazole 0.014 g (0.1 mmol) in 10 ml DCM. The reaction yielded 0.49 g of 2-(S)-{[3-(2,4-difluoro-phenyl)-2-methyl-allylamino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. The compound was transformed to the HCl salt, yielding 45 mg of a white solid. Yield: 14%.

reactant | 2-(S)-carboxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CC(=O)O | C11H19NO4
reactant | 3-(2,4-difluoro-phenyl)-2-methyl-propenal | FC1=C(C=CC(=C1)F)C=C(C=O)C | C10H8F2O
reactant | 3,4,5-trimethoxy benzoic acid | 1.3 mmol, 0.27 g | COC=1C=C(C(=O)O)C=C(C1OC)OC | C10H12O5
reactant | 1-(dimethylaminopropyl)-3-ethylcarbodiimide | 1.63 mmol, 0.31 g | CN(C)CCCN=C=NCC | C8H17N3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | 1-hydroxybenzotriazole | 0.1 mmol, 0.014 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
product | 2-(S)-{[3-(2,4-difluoro-phenyl)-2-methyl-allylamino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.49 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CNCC(=CC1=C(C=C(C=C1)F)F)C | C20H28F2N2O2
